Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male of unclear PMH, but per Rx bottles consistent
with DM2, hyperlipidemia, HTN, BPH, and constipation, along with
concern for polysubstance abuse who presents to the ER with
encephalopathy.  I am unable to obtain complete Hx or ROS
secondary to encephalopathy.  However, per ER MD note, he,
"presents now with last known normal [morning of ___ and 
noted
to be altered since this afternoon with frequent movements,
appear to be uncoordinated, and small mild agitation. 
Patient denies any acute complaints at [that]  time. Patient
denies any ingestions. Per patient's companion at bedside,
patient with history of abusing multiple substances although the
patient denies taking any drugs this time including
methamphetamine, heroin, cocaine, or as he calls it 'Coco.'"

In the ED, the patient was intermittently agitated and 
somnolent,
moving all extremities, intermittently following commands.

Patient afebrile and no leukocytosis and without any apparent
meningismus, likely not representing meningitis. Patient with
concern for possible ingestion related to patient's mental 
status
including such etiologies as GHB. Head CT without any acute
intracranial process noted. 

In the ER, he received a total of 2L IVF and Ativan 3.5mg IV. He
became apneic s/p Ativan in ED, but ultimately recovered and
did not require ICU admit.  A friend p/w patient, but was not
sure of ingestions.  The patient was rubbing his head and
intermittently tapping hands on face and twitching while 
humming.

On arrival to the floor, he denies using any illegal drugs, but
when I press him on multiple occasions, he finally admits that 
he
took Oxycodone but just 5mg.  He now states that he has been
coughing for 3 days with yellow sputum but denies any rhinorrhea
or sneezing, but this seems unreliable.  He is somnolent furing
interview but aurosable.  
 
Past Medical History:
unclear PMH, but per Rx bottles consistent with DM2,
hyperlipidemia, HTN, BPH, and constipation, along with concern
for polysubstance abuse
 
Social History:
___
Family History:
no cancers in family

 
Physical Exam:
ADMISSION:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Somnlent, but aurosable. Falls asleep easily, NAD
EYES: Anicteric, pupils equally round and 2mm
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Normal respiratory effort with no wheezing. Breathing is
non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: normal muscle bulk and tone 
SKIN: No rashes or ulcerations noted
NEURO: Alert to self, place "hospital" and year though these 
take
some prompting. He was AO x0 previously.  Finger-to-nose 
impaired
bilaterally, but strength ___ on bilateral UE and ___.   
sensation
to light touch grossly
intact throughout
PSYCH: poor attention, can follow commands, calm

DISCHARGE:
AVSS, awake, alert & oriented, fluent speech, not 
encephalopathic
CN2-12 intact, nl gait, nl sensorimotor throughout, 
Lungs CTA
Cor RRR no MRG
ABD soft, NT/ND
Psych: attentive, calm
 
Pertinent Results:
___ 03:40PM BLOOD WBC: 7.6 Hgb: 11.9* MCV: 94 
___ 03:40PM BLOOD Creat: 1.9* UreaN: 28* Glucose: 275* ALT:
45* Lipase: 58 Albumin: 4.0 
___ 03:40PM BLOOD ASA: NEG Ethanol: NEG Acetmnp: NEG
Bnzodzp: NEG Barbitr: NEG Tricycl: NEG 
___ 04:57PM BLOOD Lactate: 2.4* 
___ 12:21AM BLOOD Lactate: 1.00 
___ 10:50PM URINE Blood: NEG Nitrite: NEG Protein: TR*
Glucose: 300* Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.0
Leuks: NEG 
___ 10:50PM URINE oxycodn: POS* 
___ 10:50PM URINE bnzodzp: NEG barbitr: NEG opiates: NEG
cocaine: NEG amphetm: NEG oxycodn: POS* mthdone: NEG 
___ 10:50 pm URINE     Site: NOT SPECIFIED
  
   URINE CULTURE (Pending): 
  
   Blood Culture, Routine (Pending): 
 
CXR - Subtle opacity is noted in the left lower lung which could
represent 
 atelectasis versus pneumonia or sequelae of aspiration. No 
large
effusion or 
 pneumothorax. Heart size appears normal. Mediastinal contour is 

 unremarkable. Pulmonary hilar prominence is likely due to
technique. Bony 
 structures are intact. 

CTH WNL

EKG reviewed, no acute abnormality, sinus tach to 101.

___ 09:15AM BLOOD WBC-7.5 RBC-3.94* Hgb-12.7* Hct-36.6* 
MCV-93 MCH-32.2* MCHC-34.7 RDW-11.3 RDWSD-38.5 Plt ___
___ 09:15AM BLOOD Glucose-171* UreaN-16 Creat-1.2 Na-138 
K-4.3 Cl-101 HCO3-25 AnGap-12
___ 09:15AM BLOOD Calcium-9.0
___ 03:40PM BLOOD HIV Ab-NEG
___ 12:21AM BLOOD Lactate-1.___ male of unclear PMH, but per Rx bottles consistent 
with DM2, hyperlipidemia, HTN, BPH, and constipation, along with 
concern for narcotic abuse who presented to the ER with 
encephalopathy and (+) Utox screen.

#Encephalopathy - consistent with polysubstance abuse including 
narcotic ingestion and possibly GHB.  Clouded by his having 
received Ativan 3.5mg IV in the ER.  Without Narcan and/or 
Flumazenil this cleared rather quickly by early to mid morning 
of admission.  Opiate use disorder suspect, in absence of active 
prescription or presence in ___ PMP, though none found on 
his person.  Patient requested oxycodone for chronic back pain, 
though this was not offered to him out of concern for use 
disorder.  Non-opiate regimen was offered, though declined by 
patient. 

# Fever - to 100.8 in ER, but none on the floor.  UCx/BCx sent 
and will be monitored.  He showed no evidence of cough on floor. 
 CXR was inconclusive for pneumonia but clinically he was 
without overwhelming evidence for it, and RA SpO2 was normal.  
Abx was deferred. 

#DM2 - Patient not on Glimepiride (a friend is), but he is on 
Metformin, 10U Lantus at night (per pharmacy reconciliation).  
He was discharged on this. 

#BPH - cont Finasteride and Tamsulosin as prescribed. No 
evidence of obstruction on PVR

# ___ - resolved after fluids given in ER.  As he was eating and 
drinking on own prior to dishcarge, was restarted on home 
lisinopril 20mg daily with instructions to follow up with his 
most frequent prescribing MD ___ ___) first thing ___ to make 
f/u appointment for next week. 

No new prescriptions were provided him on DC as he indicated he 
had all of his meds at home.  His medication bottles were 
assessed, and those which were not in his name were not returned 
to him. He was instructed not to take glimeperide unless 
prescribed to him by MD, and to not take any meds prescribed to 
anyone else. 

#DVT Ppx - Heparin SC, was ambulatory on discharge. 

# Code Status/Advance Care Planning: Full (please also see POE)
# Disposition: States he lives in ___ with a roommate. 
Declined SW consultation.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO BID 
2. Atorvastatin 40 mg PO QPM 
3. Cyanocobalamin 50 mcg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Ascorbic Acid ___ mg PO DAILY 
7. Senna 8.6 mg PO BID:PRN constipation 
8. Aspirin 81 mg PO DAILY 
9. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
10. Glargine 10 Units Bedtime
11. Finasteride 5 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 10 Units Bedtime 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Cyanocobalamin 50 mcg PO DAILY  
5.  Docusate Sodium 100 mg PO BID  
6.  Finasteride 5 mg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  
8.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  
9.  Senna 8.6 mg PO BID:PRN constipation  
10.  Tamsulosin 0.4 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Toxic encephalopathy - due to opiate ingestion
HTN
DM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with confusion.  Oxycodone was found in your 
urine, but we could not confirm that you are being prescribed 
this medication.  You had minimal kidney damage from dehydration 
and this normalized after IV fluids. Your mental status cleared. 
 You are discharged to home with instructions to call your PCP 
first thing ___ to be seen next week. You indicated 
you had all of your other medications at home Do not take any 
opiate narcotics and do not take medications prescribed to other 
people
 
Followup Instructions:
___